2120-10-16 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2120-10-15**] 08:14 AM
 TRANSTHORACIC ECHO - At [**2120-10-15**] 10:28 AM
 EKG - At [**2120-10-15**] 08:35 PM
   - Zosyn & vanc for sepsis, stopped flagyl
   - Head CT, unremarkable
   - TTE - LVEF >55%, but severe LV diastolic dysfunction
   - Rising lactate
   - CVP <7, falling urine output, & hypotension -> multiple IVF boluses
   given (~11L)
   - dopamine stopped, levophed started & intermittantly on & off
   (levophed off at 0330)
   - 1 unit pRBCs ordered
   - TF started, nutrition consult ordered
   - Podiatry consulted, foot not infected
   - PPI changed to ranitidine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-15**] 03:30 AM
   Levofloxacin - [**2120-10-15**] 03:45 AM
   Cefipime - [**2120-10-15**] 06:00 AM
   Metronidazole - [**2120-10-15**] 07:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-16**] 04:11 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-10-15**] 07:40 AM
   Fentanyl - [**2120-10-15**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-10-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-16**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 111 (82 - 111) bpm
   BP: 123/58(80) {72/42(53) - 153/68(101)} mmHg
   RR: 15 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 14 (4 - 349)mmHg
   Total In:
                                                                  6,579 mL
                                                                  4,304 mL
   PO:
   TF:
                                                                     65 mL
                                                                    127 mL
   IVF:
                                                                  6,244 mL
                                                                  4,177 mL
   Blood products:
   Total out:
                                                                    932 mL
                                                                    385 mL
   Urine:
                                                                    932 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,647 mL
                                                                  3,919 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 450) mL
   Vt (Spontaneous): 594 (550 - 594) mL
   PC : 0 cmH2O
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.26/36/66/17/-9
   Ve: 9.6 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Thin, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   2/3 up lung fields bilaterally)
   Abdominal: Soft, mild diffuse TTP, hypoactive bowel sounds
   Extremities: Right: Absent, Left: Absent, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self only, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   95 K/uL
   6.9 g/dL
   154 mg/dL
   1.7 mg/dL
   17 mEq/L
   3.9 mEq/L
   22 mg/dL
   118 mEq/L
   140 mEq/L
   21.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2120-10-15**]  04:29 AM
                             [**2120-10-15**]  09:39 AM
                             [**2120-10-15**]  12:20 PM
                             [**2120-10-15**]  03:39 PM
                             [**2120-10-15**]  06:13 PM
                             [**2120-10-15**]  06:28 PM
                             [**2120-10-15**]  09:10 PM
                             [**2120-10-16**]  12:00 AM
                             [**2120-10-16**]  03:00 AM
                             [**2120-10-16**]  03:04 AM
   WBC
   8.9
   9.1
   Hct
   25.3
   21.4
   Plt
   111
   95
   Cr
   2.1
   1.7
   TropT
   0.04
   0.05
   TCO2
   20
   17
   15
   16
   14
   17
   17
   Glucose
   [**Telephone/Fax (2) 1878**]
   140
   224
   174
   154
   Other labs: PT / PTT / INR:18.8/150.0/1.7, Differential-Neuts:49.0 %,
   Band:26.0 %, Lymph:13.0 %, Mono:0.0 %, Eos:3.0 %, Lactic Acid:3.7
   mmol/L, Albumin:2.1 g/dL, LDH:181 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.6 mg/dL
   ABG 7.26 / 36 / 66 / 17; smear with multiple abnormal cells
   Head CT without contrast
 no acute intracranial process
   Assessment and Plan
   A/P: 62 yo female with DM, HTN, CAD, dementia, who presents
   hypothermic, leukopenic, with low O2, and UTI.
   .
   # Sepsis: Patient
s hypothermia on presentation, elevated lactate,
   metabolic acidosis, large IVF requirement, and bandemia are all
   concerning for sepsis, however, no clear source as of yet as urine and
   blood cultures are consistently negative.  Most likely is urosepsis
   given pyuria on admission vs. pneumonia in lungs.  Podiatry was
   consulted and does not feel that the left foot is infected (culture
   pending).  Given her evolving picture and pending cultures, will
   continue to cover broadly.
   - vanc, zosyn, levo, and flagyl (restarted)
   - send sputum and C. Diff cultures
   - CVP goal > 10
   - MAP goal > 65
   - f/u cultures
   - surveillance BCx
   - tailor antibiotics per sensitivities
   .
   # Hypotension: Patient
s CVP was 7 following admission and was not
   adequately volume resuscitated initially.  Now has received sufficient
   volume overnight and no longer requires pressors.
   - Maintain CVP > 10
   - levophed prn when CVP < 10.
   .
   # Respiratory Failure: Etiology unclear, but likely related to sepsis
   and may have an underlying pneumonia.  Also concern for potential
   ARDS-like picture, however, pt. continues to have good lung
   compliance.  If clinically worsens or changes may consider switching to
   volume-cycled assist control 350-380 at 22-25 to keep tidal volumes
   lower.  Patient currently has large tidal volumes, likely to help
   compensate for her metabolic acidosis.
   - cont. broad abx coverage pending micro results
   - unlikely to be underlying central process given normal head CT.
   .
   # Acute Renal Failure: Creatinine elevated to 1.8 on admission, peaked
   at 2.1 yesterday and now 1.7, up from baseline of 1.0-1.4 prior to
   admission.  Likely related to hypotension and underlying sepsis.
   Creatinine and urine output improved with volume resusciatation.
   - cont. to follow creatinine
   - cont. IVF to maintain CVP > 10
   .
   # Question of DIC?: Patient has lower hct and plt this morning in
   association with an elevated INR and PTT (patient not on a heparin
   drip, LMW heparin, or warfarin).
   - LFTs added on to AM labs
   - stop sc heparin tid
   - hemolysis labs pending
   - transfuse 1 unit with follow-up BCB and lytes afterward
   - peripheral smear evaluation for DIC vs. HUS/TTP
   .
   # Sedation: Fentanyl and versed to help keep patient comfortable while
   intubated.
   .
   # CHF: Pt. with normal EF on ECHO yesterday (>55%).  Does have severe
   diastolic dysfunction.  [**Month (only) 11**] be able to diurese after septic picture has
   resolved.
   .
   # ? PE: sent up on heparin out of concern for PE.  Did not do CTA b/c
   of worsening renal failure and picture concerning for sepsis instead of
   PE.  Heparin remaining off given picture concerning for DIC.
   .
   # Chest pain: see 'PE' above.  Unclear history.  ROMI
d with 3 sets of
   cardiac enzymes.
   .
   # history of seizure: recent seizure reported. etiology unclear, but
   may be related to past stroke.
   - cont keppra
   .
   # DM: SSI for now, may add in home glargine.
   .
   # Foot ulcers/bullae: Podiatry following, appreciate their wound care
   recs.  Will consider dermatology consult given unusual bullous nature
   of lesions.
   .
   # CAD/hx of stroke: on ASA
   .
   # HTN: holding antihypertensives
   .
   # PPx: ranitidine, bowel regimen, scd
s, holding heparin as above
   .
   # FEN: Tube feeds, nutrition consulted, repleting lytes prn
   .
   # Code: full, discussed with daughter
   .
   # Dispo: ICU level care
   .
   # Communication: daughter [**Name (NI) 1863**], [**Telephone/Fax (1) 1864**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-10-15**] 05:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-10-15**] 01:31 AM
   20 Gauge - [**2120-10-15**] 01:32 AM
   Arterial Line - [**2120-10-15**] 04:00 AM
   Multi Lumen - [**2120-10-15**] 08:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-10-17 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Put on Fentanyl/Versed gtt, became less hypertensive and tachycardic
   Urine culture with [**Last Name (LF) 1892**], [**First Name3 (LF) 116**] hold off on antifungals and check repeat
   cultures
   Heme Consult: possibly early DIC but no TTP/HUS, continue to monitor
   with FDP, etc.
   CVPs 8-10 overnight, given more fluids (500cc Sodium bicarb)
 SPUTUM CULTURE - At [**2120-10-17**] 05:05 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-15**] 03:30 AM
   Levofloxacin - [**2120-10-15**] 03:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-17**] 04:00 AM
   Metronidazole - [**2120-10-17**] 04:45 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-17**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 103 (95 - 127) bpm
   BP: 123/56(79) {102/46(64) - 165/81(98)} mmHg
   RR: 12 (11 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46 kg (admission): 39.6 kg
   Height: 60 Inch
   CVP: 11 (5 - 14)mmHg
   Mixed Venous O2% Sat: 78 - 78
             Total In:
                                                                  6,889 mL
                                                                    957 mL
   PO:
             TF:
                                                                    611 mL
                                                                    117 mL
   IVF:
                                                                  5,843 mL
                                                                    779 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,041 mL
                                                                    621 mL
   Urine:
                                                                  1,041 mL
                                                                    221 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,848 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 714 (520 - 714) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: 7.36/39/67/22/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Thin, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   2/3 up lung fields bilaterally)
   Abdominal: Soft, mild diffuse TTP, hypoactive bowel sounds
   Extremities: Right: Absent, Left: Absent, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self only, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   89 K/uL
   8.2 g/dL
   89 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.0 mEq/L
   2 mg/dL
   89 mEq/L
   143 mEq/L
   24.6 %
   16.4 K/uL
        [image002.jpg]
                             [**2120-10-15**]  06:28 PM
                             [**2120-10-15**]  09:10 PM
                             [**2120-10-16**]  12:00 AM
                             [**2120-10-16**]  03:00 AM
                             [**2120-10-16**]  03:04 AM
                             [**2120-10-16**]  07:49 AM
                             [**2120-10-16**]  08:00 AM
                             [**2120-10-16**]  11:30 AM
                             [**2120-10-17**]  01:34 AM
                             [**2120-10-17**]  01:51 AM
   WBC
   9.1
   11.6
   16.4
   Hct
   21.4
   25.0
   24.6
   Plt
   95
   97
   89
   Cr
   1.7
   1.7
   1.6
   TCO2
   16
   14
   17
   17
   17
   23
   Glucose
   140
   224
   174
   154
   87
   123
   163
   101
   89
   Other labs: PT / PTT / INR:18.0/71.9/1.6, CK / CKMB /
   Troponin-T:35/5/0.05, ALT / AST:14/21, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:38/7, Differential-Neuts:49.0 %, Band:26.0 %,
   Lymph:13.0 %, Mono:0.0 %, Eos:3.0 %, Fibrinogen:341 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.8 g/dL, LDH:321 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P: 62 yo female with DM, HTN, CAD, dementia, who presents
   hypothermic, leukopenic, with low O2, and UTI.
   .
   # Sepsis: Patient
s hypothermia on presentation, elevated lactate,
   metabolic acidosis, large IVF requirement, and bandemia are all
   concerning for sepsis, however, no clear source as of yet as urine and
   blood cultures are consistently negative.  Most likely is urosepsis
   given pyuria on admission vs. pneumonia in lungs.  Podiatry was
   consulted and does not feel that the left foot is infected (culture
   pending).  Given her evolving picture and pending cultures, will
   continue to cover broadly.
   - CVP goal > 10
   - MAP goal > 65
   - F/u cultures
   - Surveillance BCx to send.
   - Tailor antibiotics per sensitivities, many of which are still
   pending.
   - Vanc, zosyn, levo, discontinued the flagyl
   - Brochoscopy today, with cultures, gram stain, and cell counts.
   .
   # Hypotension: Patient
s CVP was 7 following admission and was not
   adequately volume resuscitated initially.  Now has received sufficient
   volume overnight and no longer requires pressors.
   - Maintain CVP > 10
   .
   # Respiratory Failure: Etiology unclear, but likely related to sepsis
   and may have an underlying pneumonia.  Also concern for potential
   ARDS-like picture, however, pt. continues to have good lung
   compliance.  If clinically worsens or changes may consider switching to
   volume-cycled assist control 350-380 at 22-25 to keep tidal volumes
   lower.  Patient currently has large tidal volumes, likely to help
   compensate for her metabolic acidosis.
   - Cont. broad abx coverage pending micro results
   - Attempt diuresis with 20mg of IV lasix
 if she urinates large
   volumes, she is likely ready for diuresis in the setting of 12 L worth
   of fluid resuscitation; if, however, she does not urinate large volumes
   and her Cr increases, she would not be ready for said diuresis.
   .
   # Acute Renal Failure: Creatinine elevated to 1.8 on admission, peaked
   at 2.1 yesterday and now 1.6, up from baseline of 1.0-1.4 prior to
   admission.  Likely related to hypotension and underlying sepsis.
   Creatinine and urine output improved with volume resusciatation.
   - cont. to follow creatinine
   - cont. IVF to maintain CVP > 10
 treating supportively.
   .
   # Question of DIC?: Patient has lower hct and plt this morning in
   association with an elevated INR and PTT (patient not on a heparin
   drip, LMW heparin, or warfarin).
   - Follow up with Heme/Onc recs, including following DIC labs.
   .
   # Sedation: Fentanyl and versed to help keep patient comfortable while
   intubated.
   .
   # CHF: Pt. with normal EF on ECHO yesterday (>55%).  Does have severe
   diastolic dysfunction.  [**Month (only) 11**] be able to diurese after septic picture has
   resolved.
   - Will attempt to diurese per the plan above.
   .
   # ? PE: sent up on heparin out of concern for PE.  Did not do CTA b/c
   of worsening renal failure and picture concerning for sepsis instead of
   PE.  Heparin remaining off given picture concerning for DIC.
   .
   # Chest pain: see 'PE' above.  Unclear history.  R/O
d mi with 3 sets
   of cardiac enzymes.
   .
   # History of seizure: recent seizure reported. etiology unclear, but
   may be related to past stroke.
   - cont keppra
   .
   # DM: SSI for now, may add in home glargine.
   .
   # Foot ulcers/bullae: Podiatry following, appreciate their wound care
   recs.  Will consider dermatology consult given unusual bullous nature
   of lesions.
   .
   # CAD/hx of stroke: on ASA
   .
   # HTN: holding antihypertensives
   .
   # PPx: ranitidine, bowel regimen, scd
s, holding heparin as above
   .
   # FEN: Tube feeds held for bronchoscopy, nutrition consulted, repleting
   lytes prn
   .
   # Code: full, discussed with daughter
   .
   # Dispo: ICU level care
   # Communication: daughter [**Name (NI) 1863**], [**Telephone/Fax (1) 1864**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-10-17**] 03:24 AM 20 mL/hour
   Lines:
   18 Gauge - [**2120-10-15**] 01:31 AM
   20 Gauge - [**2120-10-15**] 01:32 AM
   Arterial Line - [**2120-10-15**] 04:00 AM
   Multi Lumen - [**2120-10-15**] 08:14 AM

2120-10-19 04:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2120-10-18**] 10:00 AM
 FEVER - 101.1
F - [**2120-10-18**] 10:00 AM
   - Free water increased
   - Repeated stool for C. diff.
   - CT abdomen/pelvis - no source for sepsis
   - metoprolol, amlodipine, & hydralazine for hypertension
   - Restarted heparin sc
   - held lasix
   - tired out & dropped O2 sats while attempting to wean from vent
   - Podiatry following from a distance; requests nursing to change LLE
   dressings
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-10-17**] 04:45 AM
   Vancomycin - [**2120-10-17**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-19**] 04:17 AM
   Levofloxacin - [**2120-10-19**] 04:18 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-10-18**] 12:30 PM
   Fentanyl - [**2120-10-18**] 08:14 PM
   Dextrose 50% - [**2120-10-18**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-19**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.7
   HR: 83 (65 - 107) bpm
   BP: 142/49(83) {141/48(78) - 196/80(123)} mmHg
   RR: 16 (9 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 39.6 kg
   Height: 60 Inch
    CVP: 4 (2 - 13)mmHg
   Total In:
                                                                  2,146 mL
                                                                    434 mL
   PO:
   TF:
                                                                    281 mL
                                                                     96 mL
   IVF:
                                                                    590 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    390 mL
   Urine:
                                                                  1,830 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                    -34 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (354 - 599) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.40/40/67/23/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Thin, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   2/3 up lung fields bilaterally)
   Abdominal: Soft, mild diffuse TTP, hypoactive bowel sounds
   Extremities: Right: Absent, Left: Absent, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self only, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   85 K/uL
   8.4 g/dL
   124 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   29 mg/dL
   114 mEq/L
   144 mEq/L
   25.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2120-10-17**]  01:34 AM
                             [**2120-10-17**]  01:51 AM
                             [**2120-10-17**]  09:16 AM
                             [**2120-10-17**]  11:34 AM
                             [**2120-10-17**]  06:35 PM
                             [**2120-10-18**]  01:57 AM
                             [**2120-10-18**]  10:00 AM
                             [**2120-10-18**]  11:38 AM
                             [**2120-10-18**]  08:35 PM
                             [**2120-10-19**]  03:31 AM
   WBC
   16.4
   13.4
   9.1
   9.0
   Hct
   24.6
   23.6
   22.6
   25.9
   Plt
   89
   81
   76
   85
   Cr
   1.6
   1.9
   1.9
   1.9
   1.8
   TCO2
   23
   23
   24
   26
   26
   Glucose
   101
   89
   87
   88
   107
   93
   89
   55
   124
   Other labs: PT / PTT / INR:13.9/34.2/1.2, CK / CKMB /
   Troponin-T:35/5/0.05, ALT / AST:14/21, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:38/7, Differential-Neuts:49.0 %, Band:26.0 %,
   Lymph:13.0 %, Mono:0.0 %, Eos:3.0 %, Fibrinogen:644 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.8 g/dL, LDH:321 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: 62 yo female with DM, HTN, CAD, dementia, who presents
   hypothermic, leukopenic, with low O2, and UTI.
   .
   # Sepsis: Patient
s hypothermia on presentation, elevated lactate,
   metabolic acidosis, large IVF requirement, and bandemia are all
   concerning for sepsis, however, no clear source as of yet as urine and
   blood cultures are consistently negative.  Most likely is urosepsis
   given pyuria on admission vs. pneumonia in lungs.  Podiatry was
   consulted and does not feel that the left foot is infected, culture
   results thus underwhelming.  Bronchoscopy not revealing.  Given her
   evolving picture and pending cultures, will continue to cover broadly.
   - CVP goal > 10
   - MAP goal > 65
   - F/u cultures
   - Surveillance BCx to send.
   - Tailor antibiotics per sensitivities, many of which are still
   pending.
   - Vanc, zosyn, levo, discontinued the flagyl
   - Resend stool for C. diff
   - CT abd & pelvis today with PO contrast but no IV contrast given ARF
   .
   # Hypotension/Hypertension: Patient
s CVP was 7 following admission and
   was not adequately volume resuscitated initially.  Received sufficient
   volume overnight and no longer required pressors.  Now patient is
   hypertensive.  She is hypertensive at home and on amlodipine,
   enalapril, metoprolol, and HCTZ.
   - Restart metoprolol and amlodipine at home doses, watch BP
   - Maintain CVP > 10
   .
   # Respiratory Failure: Etiology unclear, but likely related to sepsis
   and may have an underlying pneumonia.  Also concern for potential
   ARDS-like picture, however, pt. continues to have good lung
   compliance.  If clinically worsens or changes may consider switching to
   volume-cycled assist control 350-380 at 22-25 to keep tidal volumes
   lower.  Patient currently has large tidal volumes, likely to help
   compensate for her metabolic acidosis.  Respiratory status has
   improved.
   - Cont. broad abx coverage pending micro results
   - Spontaneous breathing trial today with goal of extubating if possible
   .
   # Acute Renal Failure: Creatinine elevated to 1.8 on admission, peaked
   at 2.1 yesterday and now 1.9, up from baseline of 1.0-1.4 prior to
   admission and up from 1.6 yesterday.  Likely related to hypotension and
   underlying sepsis and diuresis yesterday.  Urine output improved with
   volume resusciatation.
   - cont. to follow creatinine
   - no lasix today
   - No IVF unless BP & urine output drop.
   .
   # Question of DIC?: Per heme & repeat labs, likely not DIC.
   - Follow up with Heme/Onc recs, including following DIC labs.
   .
   # Sedation: Fentanyl and versed to help keep patient comfortable while
   intubated.
   .
   # CHF: Pt. with normal EF on ECHO yesterday (>55%).  Does have severe
   diastolic dysfunction.  [**Month (only) 11**] be able to diurese after septic picture has
   resolved.
   - Will hold diuresis today per the plan above.
   .
   # ? PE: sent up on heparin out of concern for PE.  Did not do CTA b/c
   of worsening renal failure and picture concerning for sepsis instead of
   PE.  Heparin remaining off given picture concerning for DIC.
   .
   # Chest pain: see 'PE' above.  Unclear history.  R/O
d mi with 3 sets
   of cardiac enzymes.
   .
   # History of seizure: recent seizure reported. etiology unclear, but
   may be related to past stroke.
   - cont keppra
   .
   # DM: SSI for now, may add in home glargine.
   .
   # Foot ulcers/bullae: Podiatry following, appreciate their wound care
   recs.  Will consider dermatology consult given unusual bullous nature
   of lesions.
   .
   # CAD/hx of stroke: on ASA
   .
   # HTN: holding antihypertensives
   .
   # PPx: ranitidine, bowel regimen, scd
s, restart heparin given lower
   concern for DIC
   .
   # FEN: Tube feeds, free water boluses, nutrition consulted, repleting
   lytes prn
   .
   # Access: A-line & IJ
   .
   # Code: full, discussed with daughter
   .
   # Dispo: ICU level care
   # Communication: daughter [**Name (NI) 1863**], [**Telephone/Fax (1) 1864**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-10-18**] 10:09 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-10-15**] 01:31 AM
   Arterial Line - [**2120-10-15**] 04:00 AM
   Multi Lumen - [**2120-10-15**] 08:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-10-19 04:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2120-10-18**] 10:00 AM
 FEVER - 101.1
F - [**2120-10-18**] 10:00 AM
   - Free water increased
   - Repeated stool for C. diff.
   - CT abdomen/pelvis - no source for sepsis
   - metoprolol, amlodipine, & hydralazine for hypertension
   - Restarted heparin sc
   - held lasix
   - tired out & dropped O2 sats while attempting to wean from vent
   - Podiatry following from a distance; requests nursing to change LLE
   dressings
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-10-17**] 04:45 AM
   Vancomycin - [**2120-10-17**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-19**] 04:17 AM
   Levofloxacin - [**2120-10-19**] 04:18 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-10-18**] 12:30 PM
   Fentanyl - [**2120-10-18**] 08:14 PM
   Dextrose 50% - [**2120-10-18**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-19**] 04:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.7
   HR: 83 (65 - 107) bpm
   BP: 142/49(83) {141/48(78) - 196/80(123)} mmHg
   RR: 16 (9 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 39.6 kg
   Height: 60 Inch
    CVP: 4 (2 - 13)mmHg
   Total In:
                                                                  2,146 mL
                                                                    435 mL
   PO:
   TF:
                                                                    281 mL
                                                                     97 mL
   IVF:
                                                                    590 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    390 mL
   Urine:
                                                                  1,830 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                    -34 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (354 - 599) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.40/40/67/23/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Thin, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   2/3 up lung fields bilaterally)
   Abdominal: Soft, mild diffuse TTP, hypoactive bowel sounds
   Extremities: Right: Absent, Left: Absent, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self only, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   85 K/uL
   8.4 g/dL
   124 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   29 mg/dL
   114 mEq/L
   144 mEq/L
   25.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2120-10-17**]  01:34 AM
                             [**2120-10-17**]  01:51 AM
                             [**2120-10-17**]  09:16 AM
                             [**2120-10-17**]  11:34 AM
                             [**2120-10-17**]  06:35 PM
                             [**2120-10-18**]  01:57 AM
                             [**2120-10-18**]  10:00 AM
                             [**2120-10-18**]  11:38 AM
                             [**2120-10-18**]  08:35 PM
                             [**2120-10-19**]  03:31 AM
   WBC
   16.4
   13.4
   9.1
   9.0
   Hct
   24.6
   23.6
   22.6
   25.9
   Plt
   89
   81
   76
   85
   Cr
   1.6
   1.9
   1.9
   1.9
   1.8
   TCO2
   23
   23
   24
   26
   26
   Glucose
   101
   89
   87
   88
   107
   93
   89
   55
   124
   Other labs: PT / PTT / INR:13.9/34.2/1.2; Ca++:8.3 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL; Fibrinogen 644; FDP pending
   Micro: urine & BAL + yeast; blood cultures & C. Diff negative.
   Assessment and Plan
   A/P: 62 yo female with DM, HTN, CAD, dementia, who presents
   hypothermic, leukopenic, with low O2, and UTI.
   .
   # Sepsis: Patient
s hypothermia on presentation, elevated lactate,
   metabolic acidosis, large IVF requirement, and bandemia are all
   concerning for sepsis, however, no clear source as of yet as urine and
   blood cultures are consistently negative for bacteria.  Most likely is
   urosepsis given pyuria on admission vs. pneumonia in lungs.  Podiatry
   was consulted and does not feel that the left foot is infected, culture
   results thus far underwhelming.  Bronchoscopy not revealing.  Given her
   evolving picture and pending cultures, will continue to cover broadly.
   CT abd & pelvis unremarkable for source.
   - CVP goal > 10
   - MAP goal > 65
   - F/u cultures
   - Surveillance BCx to send.
   - Tailor antibiotics per sensitivities, many of which are still
   pending.
   - Vanc, zosyn, levo, discontinued the flagyl
   .
   # Hypotension/Hypertension: Patient
s CVP was 7 following admission and
   was not adequately volume resuscitated initially.  Received sufficient
   volume overnight and no longer required pressors.  Now patient is
   hypertensive.  She is hypertensive at home and on amlodipine,
   enalapril, metoprolol, and HCTZ.
   - Metoprolol and amlodipine restarted at home doses
   - Hydralazine added and will uptitrate for better BP control
   - Continue to hold enalapril & HCTZ
   - Maintain CVP > 10
   .
   # Respiratory Failure: Etiology unclear, but likely related to sepsis
   and may have an underlying pneumonia.  Also concern for potential
   ARDS-like picture, however, pt. continues to have good lung
   compliance.  If clinically worsens or changes may consider switching to
   volume-cycled assist control 350-380 at 22-25 to keep tidal volumes
   lower.  Patient currently has large tidal volumes, likely to help
   compensate for her metabolic acidosis.  Respiratory status has
   improved.
   - Cont. broad abx coverage pending micro results
   - Spontaneous breathing trial today with goal of extubating if possible
   .
   # Acute Renal Failure: Creatinine elevated to 1.8 on admission, peaked
   at 2.1 yesterday and now 1.9, up from baseline of 1.0-1.4 prior to
   admission and steady from 1.8 yesterday.  Likely related to hypotension
   and underlying sepsis.
   - cont. to follow creatinine
   - attempt to maintain fluid status net even to slightly negative but
   avoid aggressive diuresis
   - No IVF unless BP & urine output drop.
   .
   # Question of DIC?: Per heme & repeat labs, likely not DIC.    Hct &
   plt trending upward.  DIC labs may be elevated today secondary to
   inflammation.
   - Follow up with Heme/Onc recs.
   .
   # Sedation: Low dose fentanyl and versed to help keep patient
   comfortable while intubated.  Patient
s daughter requests minimum
   sedation possible.
   .
   # CHF: Pt. with normal EF on ECHO (>55%).  Does have severe diastolic
   dysfunction.  [**Month (only) 11**] be able to diurese after septic picture has resolved.
   - Will hold diuresis per the plan above.
   .
   # ? PE: sent up on heparin out of concern for PE.  Did not do CTA b/c
   of worsening renal failure and picture concerning for sepsis instead of
   PE.  Heparin remaining off given picture concerning for DIC.
   .
   # Chest pain: see 'PE' above.  Unclear history.  R/O
d mi with 3 sets
   of cardiac enzymes.
   .
   # History of seizure: recent seizure reported. etiology unclear, but
   may be related to past stroke.
   - cont keppra
   .
   # DM: SSI for now, may add in home glargine.
   .
   # Foot ulcers/bullae: Podiatry following, appreciate their wound care
   recs.  Will consider dermatology consult given unusual bullous nature
   of lesions.
   .
   # CAD/hx of stroke: on ASA
   .
   # HTN: see above
   .
   # PPx: ranitidine, bowel regimen, scd
s, heparin sc
   .
   # FEN: Tube feeds, free water boluses, nutrition consulted, repleting
   lytes prn
   .
   # Access: A-line & IJ
   .
   # Code: full, discussed with daughter
   .
   # Dispo: ICU level care
   # Communication: daughter [**Name (NI) 1863**], [**Telephone/Fax (1) 1864**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-10-18**] 10:09 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-10-15**] 01:31 AM
   Arterial Line - [**2120-10-15**] 04:00 AM
   Multi Lumen - [**2120-10-15**] 08:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 62F severe diastolic diastolic dysfunction,
   DM, BKA, CKD, seizures, dementia found with hypoglycemia, hypothermia,
   ARF, and probable UTI c/b septic shock.
   Exam notable for Tm 101.1  Tc 98.7 BP 141/48-196/80 HR 65-107 CVP 12
   RR 9-29 with sat 90's on PSV 10/8, Fio2 0.5, RSBI 46  PERRL, opens
   eyes, tracks, but does not follow commands. Decreased BS with  rales B
   bases. RRR 2/6Sm. Soft, no tenderness, + BS. 1+ edema; well healed R
   BKA, L foot stable. Labs notable for WBC 9K, HCT 25.9, Na 144, K+ 3.7,
   Cr 1.8,
   No new CXR today
   62F DCM, DM, CKD p/w UTI c/b septic shock and MOSF (resp failure,
   shock, ARF, DIC).
   Improving from sepsis standpoint though remains without clear source.
   Agree with plan to continue broad antibiotics (vanco/zosyn/levo) and
   follow up cultures including c. diff; likely GNR/urosepsis, severe CAP
   or aspiration. Neg CT abd and pelvic.   BP better controlled with
   hydral and BB-->titrate doses. Continue PSV with slow wean back to
   [**4-15**] and recheck RSBI / SBT in am. Mental status is improving following
   episode of hypoglycemia. Will continue to hold sedation and monitor
   with serial exams. Cr stable, but elevated above baseline.  Suspect
   ATN. Continue renal dosing of meds. Goal net even
 will give gentle
   lasix if needed for u/o.  Hct and plts improving, Continue to follow
   dic labs (though picture does not appear c/w DIC). Continue TFs. Wound
   care for LLE. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2120-10-19**] 08:05 PM ------

2120-10-20 05:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Increased Hydralazine for better BP control
   Got Metoprolol 25mg X 1 overnight for hypertension
   PEEP weaned from 8 to 5
   Tried for SBT today but pt desaturated to the high 80s on 5/0.  Was put
   back on [**9-15**].  Gave Lasix 10mg IV X 1 and ordered CXR to evaluate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-10-19**] 04:18 AM
   Vancomycin - [**2120-10-19**] 08:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-19**] 08:26 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-20**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.9
C (98.5
   HR: 73 (67 - 93) bpm
   BP: 168/58(94) {132/48(75) - 185/64(105)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 39.6 kg
   Height: 60 Inch
    CVP: 5 (2 - 8)mmHg
   Total In:
                                                                  1,572 mL
                                                                     56 mL
   PO:
   TF:
                                                                    462 mL
   IVF:
                                                                    840 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    185 mL
   Urine:
                                                                  1,425 mL
                                                                    185 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -153 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 511 (511 - 670) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.39/41/77.[**Numeric Identifier **]/24/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Thin, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: crackles bilaterally
   Abdominal: Soft, mild diffuse TTP, hypoactive bowel sounds
   Extremities: trace edema of LLE, RLE BKA, edema of upper extremities
   bilaterally
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, answers questions
   appropriately.
   Labs / Radiology
   74 K/uL
   8.7 g/dL
   121 mg/dL
   1.6 mg/dL
   24 mEq/L
   2.9 mEq/L
   30 mg/dL
   113 mEq/L
   143 mEq/L
   26.3 %
   5.6 K/uL
        [image002.jpg]
                             [**2120-10-17**]  09:16 AM
                             [**2120-10-17**]  11:34 AM
                             [**2120-10-17**]  06:35 PM
                             [**2120-10-18**]  01:57 AM
                             [**2120-10-18**]  10:00 AM
                             [**2120-10-18**]  11:38 AM
                             [**2120-10-18**]  08:35 PM
                             [**2120-10-19**]  03:31 AM
                             [**2120-10-20**]  02:55 AM
                             [**2120-10-20**]  03:15 AM
   WBC
   13.4
   9.1
   9.0
   5.6
   Hct
   23.6
   22.6
   25.9
   26.3
   Plt
   81
   76
   85
   74
   Cr
   1.9
   1.9
   1.9
   1.8
   1.6
   TCO2
   23
   24
   26
   26
   26
   Glucose
   87
   88
   107
   93
   89
   55
   124
   121
   Other labs: PT / PTT / INR:14.2/39.9/1.2, CK / CKMB /
   Troponin-T:35/5/0.05, ALT / AST:14/21, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:38/7, Differential-Neuts:70.7 %, Band:26.0 %,
   Lymph:19.7 %, Mono:6.3 %, Eos:2.6 %, Fibrinogen:627 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.8 g/dL, LDH:321 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: 62 yo female with DM, HTN, CAD, dementia, who presents
   hypothermic, leukopenic, with low O2, and UTI.
   .
   # Sepsis: No clear source at this point with negative cultures.  Fever
   curve is trending down and patient is no longer hypotensive.  Podiatry
   was consulted and does not feel that the left foot is infected, culture
   results thus far underwhelming.  Bronchoscopy not revealing. CT abd &
   pelvis unremarkable for source.
   - continue Vanc, zosyn, levo, for broad-spectrum antibiotics, total
   course 10 days (today is [**5-21**])
   - dose meds for changing renal function
   .
   # Hypotension/Hypertension: Was hypotensive on admission requiring
   fluids and pressors.  No longer on pressors and now patient is
   hypertensive.  She is hypertensive at home and on amlodipine,
   enalapril, metoprolol, and HCTZ.
   - Metoprolol and amlodipine restarted at home doses
   - Hydralazine added and uptitrated for better BP control
   - will try to diurese with Lasix and increase Metoprolol to 50 PO BID
   today.
   - can consider restarting Enalapril and/or HCTZ tomorrow given improved
   renal function.
   .
   # Respiratory Failure: Etiology unclear, but likely related to sepsis
   and may have an underlying pneumonia.  Also concern for potential
   ARDS-like picture, however, pt. continues to have good lung compliance.
   Respiratory status improving and pt is close to extubation although
   failed SBT today.
   - Cont. broad abx coverage pending micro results
   - will reassess with SBT tomorrow and possible extubation
   - try to diurese today with goal
 1L and monitor PM lytes
   .
   # Acute Renal Failure: Creatinine elevated to 1.8 on admission, peaked
   at 2.1 yesterday and now 1.6 up from baseline of 1.0-1.4 prior to
   admission and steady from 1.8 yesterday.  Likely related to hypotension
   and underlying sepsis.
   - cont. to follow creatinine
   - attempt diurese today with goal -1L today, monitor PM lytes and
   creatinine
   .
   # Question of DIC?: Per heme & repeat labs, likely not DIC.    Hct &
   plt trending upward.  DIC labs may be elevated today secondary to
   inflammation. Pt has no clear bleeding or hemolysis and HCT is stable.
   - Follow up with Heme/Onc recs.
   - f/u DIC labs unchanged
   .
   # Sedation: No longer sedated.
   .
   # CHF: Pt. with normal EF on ECHO (>55%).  Does have severe diastolic
   dysfunction.
   - Will start diuresis per the plan above.
   - ASA
   .
   # ? PE: sent up on heparin out of concern for PE.  Did not do CTA b/c
   of worsening renal failure and picture concerning for sepsis instead of
   PE.  Heparin remaining off given picture concerning for DIC.
   .
   # Chest pain: see 'PE' above.  Unclear history.  R/O
d mi with 3 sets
   of cardiac enzymes.
   .
   # History of seizure: recent seizure reported. etiology unclear, but
   may be related to past stroke.
   - cont keppra
   .
   # DM: SSI for now, may add in home glargine.
   .
   # Foot ulcers/bullae: Podiatry following, appreciate their wound care
   recs.
   .
   # CAD/hx of stroke: on ASA
   .
   # HTN: see above
   .
   # PPx: ranitidine, bowel regimen, scd
s, heparin sc
   .
   # FEN: Tube feeds, free water boluses, nutrition consulted, repleting
   lytes prn
   .
   # Access: A-line & IJ.  Consider PICC line today.
   .
   # Code: full, discussed with daughter
   .
   # Dispo: ICU level care, may be appropriate for floor once extubated
   and stable.
   # Communication: daughter [**Name (NI) 1863**], [**Telephone/Fax (1) 1864**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-10-15**] 01:31 AM
   Arterial Line - [**2120-10-15**] 04:00 AM
   Multi Lumen - [**2120-10-15**] 08:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 62F severe diastolic diastolic dysfunction,
   DM, BKA, CKD, seizures, dementia found with hypoglycemia, hypothermia,
   ARF, and probable UTI c/b septic shock. Remained hypertensive
   overnight.  Failed SBT this am [**1-13**] desaturation.
   Exam notable for Tm 100.5  Tc 98.5  BP 168/58  HR 67-93 CVP 12  RR 13
   with sat 97 on PSV 5/5, Fio2 0.5,--> 7.4/41/78    - 150 cc /24 hrs,
   -130 cc 8 hrs,    More awake, PERRL, opens eyes, following simple
   commands. Decreased BS with rales B bases. RRR 2/6Sm. Soft, no
   tenderness, + BS. 1+ edema; well healed R BKA, L foot stable. Labs
   notable for WBC 5.6 K, HCT 26.3, plt 74, K 2.9  Na 143, K+ 3.7, Cr 1.6
   (1.8),
   MICRO stool neg c diff, bl cx ngtd/neg
   CXR--overpenetrated, ET RIJ in place, rotated, no new focal infiltrate
   62F DCM, DM, CKD p/w UTI c/b septic shock and MOSF (resp failure,
   shock, ARF, DIC).
   Improving from sepsis standpoint though remains without clear source.
   MS improving.
   Agree with plan to complete 10 d course of broad antibiotics
   (vanco/zosyn/levo) and follow up cultures including c. diff; Had neg CT
   abd and pelvic. Source most likely GNR/urosepsis or severe CAP or
   aspiration. BP better controlled with hydral and BB but remains
   suboptimal.  Will continue to titrate doses, increasing metoprolol
   today.  Holding ace-i for one additional day until renal fx
   normalizes. Cr continues to improve but elevated above baseline.
   Suspect ATN.  Does appear wet clinically--will diurese (goal neg 1 L).
    Failed SBT today and fluid may have contributed.  Rest on vent and
   recheck rsbi/sbt in am after better optimization of bp and volume
   status. Hct and plts remain stable. Continue to follow dic labs (though
   picture does not appear c/w DIC). Continue TFs. Wound care for LLE.
   Will arrange for picc and then d/c neck line. Remainder of plan as
   outlined above.
   Patient is critically ill
   Total time: 35 min
   Addendum
   Pt self extubated after am rounds.  Alert and comfortable appearing
   with no acc muscle use and with sats stable on FM.  Will monitor
   closely, following exam and abg and NT sxing.  No acute need for
   reintubation at this time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2120-10-20**] 03:21 PM ------

2120-10-22 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Podiatry felt wound cx from foot most likely represents colonization
   rather than infection
   -decreased metoprolol from 50 [**Hospital1 **] to 25 [**Hospital1 **]
   -Low dose enalapril started
   -IVF x 250 mL
   -D/c heparin
   -Sent HIT assay
   -Decreased glargine
   -Pneumoboots
   -PICC line requested
   -Vanc trough prior to third dose ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-21**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-22**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-22**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.6
C (96.1
   HR: 69 (57 - 70) bpm
   BP: 130/49(73) {127/45(68) - 164/60(95)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 39.6 kg
   Height: 60 Inch
    CVP: 4 (2 - 13)mmHg
   Total In:
                                                                  3,161 mL
                                                                    690 mL
   PO:
   TF:
                                                                    483 mL
                                                                    126 mL
   IVF:
                                                                  1,208 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  1,088 mL
                                                                    225 mL
   Urine:
                                                                    688 mL
                                                                    225 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,073 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 390 (390 - 502) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/38/111/22/-2
   Ve: 8.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: crackles bilaterally
   Abdominal: Soft, mild diffuse TTP, hypoactive bowel sounds
   Extremities: trace edema of LLE, RLE BKA, edema of upper extremities
   bilaterally
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, answers questions
   appropriately.
   Labs / Radiology
   55 K/uL
   7.9 g/dL
   98 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.4 mEq/L
   30 mg/dL
   112 mEq/L
   141 mEq/L
   24.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2120-10-20**]  03:15 AM
                             [**2120-10-20**]  02:52 PM
                             [**2120-10-20**]  07:25 PM
                             [**2120-10-20**]  07:40 PM
                             [**2120-10-20**]  09:57 PM
                            [**2120-10-21**]  03:06 AM
                            [**2120-10-21**]  03:18 AM
                            [**2120-10-21**]  01:59 PM
                            [**2120-10-22**]  02:45 AM
                            [**2120-10-22**]  05:39 AM
   WBC
   4.5
   5.5
   Hct
   25.6
   24.4
   Plt
   64
   55
   Cr
   1.5
   1.6
   1.4
   TropT
   0.02
   TCO2
   26
   28
   27
   24
   24
   24
   23
   Glucose
   57
   55
   135
   114
   98
   Other labs: PT / PTT / INR:12.3/32.3/1.0, CK / CKMB /
   Troponin-T:11/5/0.02, ALT / AST:14/21, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:38/7, Differential-Neuts:63.0 %, Band:26.0 %,
   Lymph:29.2 %, Mono:4.8 %, Eos:2.5 %, Fibrinogen:627 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:1.8 g/dL, LDH:353 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: 62 yo female with DM, HTN, CAD, dementia, who presents
   hypothermic, leukopenic, with low O2, and UTI.
   .
   # Sepsis: No clear source at this point with negative cultures.  Fever
   curve is trending down and patient is no longer hypotensive.  Podiatry
   was consulted and does not feel that the left foot is infected, culture
   results thus far underwhelming.  Bronchoscopy not revealing. CT abd &
   pelvis unremarkable for source.
   - continue Vanc, zosyn, levo, for broad-spectrum antibiotics, total
   course 10 days (started [**10-15**])
   - dose meds for changing renal function; check vanc trough
   - discuss with podiatry whether they think the foot is just colonized
   or infected
   .
   # Hypotension/Hypertension: Was hypotensive on admission requiring
   fluids and pressors.  No longer on pressors and now patient is
   hypertensive.  She is hypertensive at home and on amlodipine,
   enalapril, metoprolol, and HCTZ.  Metoprolol and amlodipine were
   restarted at home doses and hydralazine was added for better BP
   control.  Pt. is now somewhat bradycardic today.
   - Decrease metoprolol from 50 [**Hospital1 **] to 25 [**Hospital1 **]
   - can consider restarting Enalapril and/or HCTZ tomorrow given improved
   renal function if BP is elevated.
   .
   # Respiratory Failure: Etiology unclear, but likely related to sepsis
   and may have an underlying pneumonia.  Also concern for potential
   ARDS-like picture, however, pt. continues to have good lung compliance.
   Respiratory status improving and pt is close to extubation although
   failed SBT today.
   - Cont. broad abx coverage pending micro results
   - will reassess with SBT tomorrow and possible extubation
   - place on ARDSnet protocol
   .
   # Acute Renal Failure: Creatinine elevated to 1.8 on admission, peaked
   at 2.1 yesterday and now back down to 1.6.
   - cont. to follow creatinine
   - as urine output is down despite normal to elevated BP will bolus with
   250 cc and monitor response.
   - hold on diurese today pending fluid bolus trial.
   .
   # Question of DIC?: Per heme & repeat labs, likely not DIC.   However,
   plt are trending downward again, though FDP normal today.  Pt has no
   clear bleeding or hemolysis and HCT is stable.
   - Follow up with Heme/Onc recs.
   - f/u DIC labs
   - stop heparin sc
   - check HIT panel
   .
   # Sedation: No longer sedated.
   .
   # CHF: Pt. with normal EF on ECHO (>55%).  Does have severe diastolic
   dysfunction.
   - Will start diuresis per the plan above.
   - ASA
   .
   # ? PE: sent up on heparin out of concern for PE.  Did not do CTA b/c
   of worsening renal failure and picture concerning for sepsis instead of
   PE.  Heparin remaining off given picture concerning for DIC.
   .
   # Chest pain: see 'PE' above.  Unclear history.  R/O
d mi with 3 sets
   of cardiac enzymes.
   .
   # History of seizure: recent seizure reported. etiology unclear, but
   may be related to past stroke.
   - cont keppra
   .
   # DM: SSI for now, will decrease home glargine given hypoglycemia
   .
   # Foot ulcers/bullae: Podiatry following, appreciate their wound care
   recs.
   .
   # CAD/hx of stroke: on ASA
   .
   # HTN: see above
   .
   # PPx: ranitidine, bowel regimen, scd
s, holding heparin sc
   .
   # FEN: Tube feeds, free water boluses, nutrition consulted, repleting
   lytes prn
   .
   # Access: A-line & IJ.  Consider PICC line.
   .
   # Code: full, discussed with daughter
   .
   # Dispo: ICU level care, may be appropriate for floor once extubated
   and stable.
   # Communication: daughter [**Name (NI) 1863**], [**Telephone/Fax (1) 1864**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-10-22**] 03:49 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-10-15**] 04:00 AM
   Multi Lumen - [**2120-10-15**] 08:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-23 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No midline or PICC possible per IV team, ?PICC via IR
   Did well with SBT yesterday but due to pulmonary edema, waited until
   this morning for extubation
   Currently on SBT and doing well with RSBIs in the 40s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-22**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-23**] 04:12 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-23**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 87 (64 - 89) bpm
   BP: 163/62(94) {130/44(69) - 192/68(112)} mmHg
   RR: 19 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46 kg (admission): 39.6 kg
   Height: 60 Inch
    CVP: 2 (0 - 8)mmHg
   Total In:
                                                                  2,293 mL
                                                                    129 mL
   PO:
   TF:
                                                                    480 mL
                                                                      5 mL
   IVF:
                                                                    673 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                  1,510 mL
   Urine:
                                                                  1,450 mL
                                                                  1,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    843 mL
                                                                 -1,381 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 416 (343 - 644) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.42/41/114/24/2
   Ve: 6.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Thin, alert, follows commands, looking around the
   room
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: crackles bilaterally
   Abdominal: Soft, non-tender, non-distended, hypoactive bowel sounds
   Extremities: trace edema of LLE, RLE BKA, edema of upper extremities
   bilaterally
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, answers questions
   appropriately.
   Labs / Radiology
   86 K/uL
   8.4 g/dL
   78 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.8 mEq/L
   24 mg/dL
   107 mEq/L
   138 mEq/L
   26.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2120-10-20**]  07:40 PM
                             [**2120-10-20**]  09:57 PM
                            [**2120-10-21**]  03:06 AM
                            [**2120-10-21**]  03:18 AM
                            [**2120-10-21**]  01:59 PM
                            [**2120-10-22**]  02:45 AM
                            [**2120-10-22**]  05:39 AM
                            [**2120-10-22**]  12:27 PM
                            [**2120-10-23**]  02:27 AM
                            [**2120-10-23**]  02:50 AM
   WBC
   4.5
   5.5
   10.5
   Hct
   25.6
   24.4
   26.5
   Plt
   64
   55
   86
   Cr
   1.6
   1.4
   1.3
   TropT
   0.02
   TCO2
   27
   24
   24
   24
   23
   26
   28
   Glucose
   55
   135
   114
   98
   130
   78
   Other labs: PT / PTT / INR:12.6/31.0/1.1, CK / CKMB /
   Troponin-T:11/5/0.02, ALT / AST:14/21, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:38/7, Differential-Neuts:79.3 %, Band:26.0 %,
   Lymph:13.4 %, Mono:4.1 %, Eos:2.9 %, Fibrinogen:627 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:1.8 g/dL, LDH:353 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P: 62 yo female with DM, HTN, CAD, dementia, who presents
   hypothermic, leukopenic, with low O2, and UTI.
   .
   # Sepsis: No clear source at this point with negative cultures.  Fever
   curve is trending down and patient is no longer hypotensive.  Podiatry
   was consulted and does not feel that the left foot is infected, culture
   results thus far underwhelming.  Bronchoscopy not revealing. CT abd &
   pelvis unremarkable for source.
   - continue Vanc, zosyn, levo, for broad-spectrum antibiotics, total
   course 10 days (started [**10-15**]) today is day 8.
   - vanc trough this AM was 28.0; however dosing should be at 8am and
   trough drawn at 4:30am
   .
   # Hypotension/Hypertension: Was hypotensive on admission requiring
   fluids and pressors.  No longer on pressors and now patient is
   hypertensive.  She is hypertensive at home and on amlodipine,
   enalapril, metoprolol, and HCTZ.  Metoprolol and amlodipine were
   restarted at home doses and hydralazine was added for better BP
   control.  Metoprolol was decreased to 25mg PO BID, then increased to
   25mg PO TID.  Pt was bradycardic at times.
   - Enalapril restarted and will titrate up to 10mg TID for optimal BP
   control
   - continue Hydralazine, Metoprolol, Amlodipine
   - continue Lasix as tolerated by BP
   .
   # Respiratory Failure: Etiology unclear, but likely related to sepsis
   and may have an underlying pneumonia.  Also concern for potential
   ARDS-like picture, however, pt. continues to have good lung compliance.
   Respiratory status improving and will likely be extubated but may
   experience flash pulmonary edema and may need Labetolol IV to reduce
   BP.  On lasix.
   - Cont. broad abx coverage
   - extubation today with Labetolol IV PRN if pt becomes hypertensive and
   concerns for flash pulmonary edema
   - diurese with Lasix gtt today
 currently negative 1.8L with improving
   creatinine.  Will continue at current dosing as tolerated by BP and
   check lytes at noon and 6pm
   .
   # Acute Renal Failure: Creatinine elevated to 1.8 on admission, peaked
   at 2.1 yesterday and now back down to 1.3
   - cont. to follow creatinine
   .
   # Question of DIC?: Per heme & repeat labs, likely not DIC.   However,
   plt are trending downward.  Pt has no clear bleeding or hemolysis and
   HCT is stable.  SC heparin stopped.
   - Follow up with Heme/Onc recs.
   - HIT panel pending
   - continue to hold heparin products and trend platelets and HCT
   .
   # Sedation: No longer sedated.
   .
   # CHF: Pt. with normal EF on ECHO (>55%).  Does have severe diastolic
   dysfunction.
   - Lasix gtt
   - ASA
   .
   # ? PE: sent up on heparin out of concern for PE.  Did not do CTA b/c
   of worsening renal failure and picture concerning for sepsis instead of
   PE.  Heparin remaining off given picture concerning for DIC.
   .
   # Chest pain: see 'PE' above.  Unclear history.  R/O
d mi with 3 sets
   of cardiac enzymes.
   .
   # History of seizure: recent seizure reported. etiology unclear, but
   may be related to past stroke.
   - cont keppra
   .
   # DM: SSI for now
   .
   # Foot ulcers/bullae: Podiatry following, appreciate their wound care
   recs.
   .
   # CAD/hx of stroke: on ASA
   .
   # HTN: see above
   .
   # PPx: ranitidine, bowel regimen, scd
s, holding heparin sc
   .
   # FEN: holding tube feeds pending extubation; may restart diet with
   sips, clears and advance pending extubation today.  Diurese today at
   current lasix gtt dose and monitor electrolytes and creatinine.
   .
   # Access: A-line & IJ.  Will plan for PICC line tomorrow once extubated
   and more stable.
   .
   # Code: full, discussed with daughter
   .
   # Dispo: ICU level care, may be appropriate for floor once extubated
   and stable.
   # Communication: daughter [**Name (NI) 1863**], [**Telephone/Fax (1) 1864**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-10-15**] 04:00 AM
   Multi Lumen - [**2120-10-15**] 08:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: